US04732998
(3-Aminopropoxymethylene)-bisphosphonic acid
A mixture of tetraethyl (3-(phthalimido)-propoxymethylene)-bisphosphonate (4.4 g) and 6N hydrochloric acid (25 ml) was refluxed overnight. After cooling, the mixture was diluted with water and extracted twice with ether. The aqueous phase was evaporated to dryness, and the residue was stirred with absolute ethanol. The title compound was isolated by filtration and dried in vacuo.

reactant | tetraethyl (3-(phthalimido)-propoxymethylene)-bisphosphonate | 4.4 g | C1(C=2C(C(N1CCCOC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)=O)=CC=CC2)=O | C20H31NO9P2
reactant | hydrochloric acid | 6N, 25 ml | Cl | ClH
solvent | water | O | H2O
product | (3-Aminopropoxymethylene)-bisphosphonic acid | NCCCOC(P(O)(O)=O)P(O)(O)=O | C4H13NO7P2
